US07446222B2
Ethyl 6-{5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}2-pyridinecarboxylate
A mixture of {5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid (1.32 g, 3.9 mmol), ethyl 6-bromopicolinate (851 mg, 3.7 mmol), potassium carbonate (2.76 g, 20 mmol) and tetrakis(triphenylphosphine)palladium(0) (232 mg, 0.2 mmol) in 1:1 toluene/ethanol (25 ml) was stirred and heated at 90° C. under nitrogen for 1.5 hours. After cooling and dilution with diethyl ether/water the organic phase was separated, dried (magnesium sulphate) and evaporated. The residue was chromatographed on silica eluting with ethyl acetate/iso-hexane (3:17) to give 1.37 g of white solid. LC/MS t=3.76, [MH+] 444.3

reactant | {5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid | 3.9 mmol, 1.32 g | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)B(O)O)OCC1=CC=CC=C1 | C19H16BClO3
reactant | ethyl 6-bromopicolinate | 3.7 mmol, 851 mg | BrC1=CC=CC(=N1)C(=O)OCC | C8H8BrNO2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 232 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene ethanol | 25 ml | C1(=CC=CC=C1)C.C(C)O
product | Ethyl 6-{5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}2-pyridinecarboxylate | 1.37 g | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)OCC1=CC=CC=C1 | C27H22ClNO3
